US05169841
f) Methyl 2-(2-thienylmethyl)acrylate
11.8 g of monomethyl 2-thienylmethylmalonate, 5.8 ml of diethylamine and 5.0 ml of 36% aqueous formaldehyde solution are stirred under argon at R.T. for 1 h. The water is subsequently removed in vacuo, and the residue is chromatographed. 7.6 g of the title compound are obtained as a colorless liquid.

reactant | monomethyl 2-thienylmethylmalonate | 11.8 g | S1C(=CC=C1)CC(C(=O)OC)C(=O)[O-]
reactant | diethylamine | 5.8 ml | C(C)NCC | C4H11N
reactant | formaldehyde | 5.0 ml | C=O | CH2O
product | Methyl 2-(2-thienylmethyl)acrylate | 7.6 g | S1C(=CC=C1)CC(C(=O)OC)=C | C9H10O2S
